US07452880B2
4-Chloro-2-(2-chloro-phenoxy)-pyrimidine (432 mg, 1.79 mmol) was dissolved in 10 mL of dry THF, and the reaction mixture was cooled to −78° C. under nitrogen. Lithium diisopropylamine (1.6 mL of 2M solution in THF) was added and the reaction mixture was stirred for eight minutes. Thiophene-2-carboxaldehyde (0.31 mL) was added, and the reaction mixture was stirred for 30 minutes at −78° C. The reaction was quenched by addition of 10 mL saturated aqueous ammonium chloride, and evaporated under reduced pressure to remove THF. Water (40 mL) and EtOAc (60 mL) were added, the organic phase was collected, and the aqueous phase was washed twice with 40 mL EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered, and evaporated under reduced pressure. The residue was purified by preparative TLC using 1.8% MeOH in methylene chloride to yield 98 mg of [4-Chloro-2-(2-chloro-phenoxy)-pyrimidin-5-yl]-thiophen-2-yl-methanol. Mass Spec. M+H=354.

reactant | 4-Chloro-2-(2-chloro-phenoxy)-pyrimidine | 1.79 mmol, 432 mg | ClC1=NC(=NC=C1)OC1=C(C=CC=C1)Cl | C10H6Cl2N2O
reactant | Lithium diisopropylamine | 2M, 1.6 mL | C(C)(C)NC(C)C.[Li]
reactant | Thiophene-2-carboxaldehyde | 0.31 mL | S1C(=CC=C1)C=O | C5H4OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [4-Chloro-2-(2-chloro-phenoxy)-pyrimidin-5-yl]-thiophen-2-yl-methanol | 98 mg | ClC1=NC(=NC=C1C(O)C=1SC=CC1)OC1=C(C=CC=C1)Cl | C15H10Cl2N2O2S
